US04912241
3-[4-(2-Propinyl)Oxy-Phenyl]-2-Propenoic Acid n-Butyl Ester
903 g (4.1M) of p-hydroxy cinnamic acid n-butyl ester (see above) are dissolved in 4 liter acetone. 622 g (4.5M) of finely powdered potassium carbonate and 523.5 g (4.4M) freshly distilled butinyl bromide are added. Under stirring the suspension is heated to reflux (temperature in the mixture 56° C.). After refluxing for about 18 hours the starting material is consumed. The yellow suspension is cooled to about 10° C. and filtered. The filtrate is evaporated to dryness in vacuo (about 12 mbar) at 35° C. The yellow oily residue is added with stirring to about 6 liters of water. A white crystalline precipitate is obtained which is isolated by filtration. The solid material is washed with water and dried. It is crystallised from 1 liter of hexane. The product, 805.5 g, is obtained in colourless prisms, mp 38.5° to 39.0° C. From the mother liquor another 183.0 g of product could be isolated. Total yield 988.5 g (93.3% of theory).

reactant | p-hydroxy cinnamic acid n-butyl ester | 4.1M, 903 g | C(CCC)OC(C=CC1=CC=C(C=C1)O)=O | C13H16O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | butinyl bromide | C(#CCC)Br | C4H5Br
solvent | acetone | 4 liter | CC(=O)C | C3H6O
product | 3-[4-(2-Propinyl)Oxy-Phenyl]-2-Propenoic Acid n-Butyl Ester | 183.0 g | C(CCC)OC(C=CC1=CC=C(C=C1)OCC#C)=O | C16H18O3
